US07371743B2
N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethyl]-4-(1,3-dioxo-thiomorpholin-4-yl)-3-methyl-benzamide
204 mg (0.48 mmol) N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethyl]-3-methyl-4-(thiomorpholin-3-on-4-yl)-benzamide are dissolved in a mixture of 12 ml dichloromethane and 1.2 ml acetic acid at −15° C. and combined with 110 mg (0.48 mmol) 3-chloroperbenzoic acid. The mixture is then stirred for one hour at −15 to −10° C., heated to ambient temperature and stirred for a further 3 hours. Then the reaction mixture is combined with semi-concentrated sodium hydrogen carbonate solution and extracted with a solvent mixture dichloromethane/methanol 19:1. The combined organic phases are washed with water, dried over magnesium sulphate, evaporated down i. vac. and purified by chromatography on silica gel (eluting gradient: ethyl acetate/(ethanol/conc. ammonia solution 19:1)=1:0->4:1).

reactant | N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethyl]-3-methyl-4-(thiomorpholin-3-on-4-yl)-benzamide | 0.48 mmol, 204 mg | ClC1=CC2=C(NC(=N2)[C@H](C)NC(C2=CC(=C(C=C2)N2C(CSCC2)=O)C)=O)C=C1 | C21H21ClN4O2S
reactant | 3-chloroperbenzoic acid | 0.48 mmol, 110 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
solvent | acetic acid | 1.2 ml | C(C)(=O)O | C2H4O2
product | N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethyl]-4-(1,3-dioxo-thiomorpholin-4-yl)-3-methyl-benzamide | ClC1=CC2=C(NC(=N2)[C@H](C)NC(C2=CC(=C(C=C2)N2C(CS(CC2)=O)=O)C)=O)C=C1 | C21H21ClN4O3S
